US05498621
A. Ethyl alpha-cyclohexylcarbonylaminoacetoacetate
To a suspension of 23.6 g of ethyl alpha-aminoacetoacetate hydrochloride in 450 ml of chloroform cooled to 0° C. was added 19.52 ml of cyclohexylcarbonyl chloride. After 20 minutes at 0° C. 36 ml of triethylamine was added dropwise over a period of 30 minutes. The reaction mixture was allowed to warm to room temperature, was washed with water (2×300 ml) and brine (300 ml) and dried over magnesium sulfate. Removal of the solvent in vacuo gave 35.1 g of an oil which on chromatographing on 400 g of silica gel (hexane-ethyl acetate; 7.5:2.5; v:v) gave 13.9 g of product, m.p. 74°-75° C.

reactant | ethyl alpha-aminoacetoacetate hydrochloride | 23.6 g | Cl.NC(C(=O)OCC)C(=O)C
reactant | cyclohexylcarbonyl chloride | 19.52 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | triethylamine | 36 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 450 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl alpha-cyclohexylcarbonylaminoacetoacetate | 35.1 g | C1(CCCCC1)C(=O)NC(C(=O)OCC)C(=O)C | C13H21NO4
